* ADG1211 MACROMODEL
* Description: Converter
* Generic Desc: +/- 15V Quad Switch/Mux with Low Cap I.C
* Developed by: Y.WONG 
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (08/2008)
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Connections
*      1  = IN1
*      2  = D1
*      3  = S1
*      4  = VSS 
*      5  = GND
*      6  = S4
*      7  = D4
*      8  = IN4
*      9  = IN3
*      10 = D3
*      11 = S3
*      12 = NC
*      13 = VDD
*      14 = S2
*      15 = D2
*      16 = IN2
*****************

.SUBCKT ADG1211 1 2 3 4 5 6 7 8 9 10 11 13 14 15 16

X1 3 2 1 13 5 4 LOWONSWITCH
X2 14 15 16 13 5 4 LOWONSWITCH
X3 11 10 9 13 5 4 LOWONSWITCH
X4 6 7 8 13 5 4 LOWONSWITCH
DINA1 1 13 DX
DINB1 5 1 DX 
DINA2 16 13 DX
DINB2 5 16 DX 
DINA3 9 13 DX
DINB3 5 9 DX 
DINA4 8 13 DX
DINB4 5 8 DX
CIN1 1 5 2.5p
CIN2 16 5 2.5p
CIN3 9 5 2.5p
CIN4 8 5 2.5p
RC1 3 14 1.283E6
RC2 14 11 1.283E6
RC3 11 6 1.283E6
CC1 3 14 0.039p
CC2 14 11 0.039p
CC3 11 6 0.039p
*MODELS USED
.MODEL DX D(IS=1E-12 N=0.5 RS=0.1)
.ENDS

****************
* Logic Low On Switch
*
* Connections
*      101 = S
*      102 = D
*      103 = VIN
*      104 = VDD 
*      105 = GND
*      106 = VSS
*****************

.SUBCKT LOWONSWITCH  101 102 103 104 105 106

x1 103 104 105 107 NOTGATE
X2 107 108 104 106 105 VSENSE
X3 108 105 109 ENABLEDELAY
X4 101 102 109 104 105 106 SWITCH

*MODELS USED
.ENDS

*****************
* NOT LOGIC
*
* Connections
*      201 = INPUT
*      202 = VDD
*      203 = GND
*      204 = OUTPUT
*****************
.SUBCKT NOTGATE 201 202 203 204

SNOT 205 203 201 203 SMOD2
RNOT 205 202 5G
EBUFFER 204 203 205 203 1

*MODELS USED
.MODEL SMOD2 VSWITCH(RON=1E-3 ROFF=1E11 VON=2.0 VOFF=0.8)
.ENDS

****************
* Switch
*
* Connections
*      201 = S
*      202 = D
*      203 = VIN
*      204 = VDD 
*      205 = GND
*      206 = VSS
*****************
.SUBCKT SWITCH  201 202 203 204 205 206

*ANALOG SWITCH
EBuffer 214 205 201 205 1
S1 210 222 203 205 SMOD1
Vo2 214 219 0
EVDD 219 220 204 205 1
SN 210 209 205 220 SMOD5
Vo1 205 218 0
EVSS 217 218 206 205 1
SP 210 208 214 217 SMOD6 
Xn 215 209 214 205 204 206 VCRN
Xp 207 208 214 205 204 206 VCRP
RS1 201 207 1
RS2 201 215 1
S2 204 221 203 205 SMOD2
S3 204 223 201 205 SMOD3 
S4 204 224 202 205 SMOD3
S5 223 221 201 205 SMOD7
S6 224 221 202 205 SMOD7
RD 221 205 5G
S7 222 202 221 205 SMOD4
DS1 201 204 DX 
DS2 206 201 DX
DD1 202 204 DX
DD2 206 202 DX

*ON OFF ISOLATION*
CSD 201 202 0.637p

*ESTIMATE BANDWIDTH  
CSB 201 204 1p
CDB 202 204 1p

*CHARGE INJECTION
CGS 201 203 0.03p
CGD 202 203 0.03p

*MODELS USED
.MODEL SMOD1 VSWITCH(RON=1E-3 ROFF=7.905E5 VON=2 VOFF=0.8)
.MODEL SMOD2 VSWITCH(RON=1E-3 ROFF=1E11 VON=2 VOFF=0.8)
.MODEL SMOD3 VSWITCH(RON=1E-3 ROFF=1E11 VON=0.8 VOFF=1.0)
.MODEL SMOD4 VSWITCH(RON=1E-3 ROFF=10E11 VON=4 VOFF=3)
.MODEL SMOD5 VSWITCH(RON=1E-3 ROFF=1E11 VON=9.01 VOFF=8.99)
.MODEL SMOD6 VSWITCH(RON=1E-3 ROFF=1E11 VON=6.01 VOFF=5.99)
.MODEL SMOD7 VSWITCH(RON=1E-3 ROFF=1E11 VON=-0.8 VOFF=-1.0)
.MODEL DX D(IS=1E-12 N=0.5 RS=0.1)
.ENDS

*****************
* ENABLE DELAY
*
* Connections
*      301 = INPUT
*      302 = COM
*      303 = OUTPUT
*****************
.SUBCKT ENABLEDELAY 301 302 303

EENBUFFER 304 302 301 302 1
RFEN 304 306 192k
CFEN 306 302 5p
DBREAKEN 306 305 DZ
RBEN 305 304 5.6k
EENBUFFEROUT 303 302 306 302 1 

*MODELS USED
.MODEL DZ D(IS=1E-14 N=0.04)
.ENDS

*****************
* OPERATING VOLTAGE 
*
* Connections
*      601 = INPUT
*      602 = OUTPUT
*      603 = VDD
*      604 = VSS
*      605 = GND
*****************
.SUBCKT VSENSE 601 602 603 604 605
SD1 601 606 603 605 SMOD3
SD2 606 607 603 605 SMOD4
SD3 607 608 605 604 SMOD5
SD4 608 609 605 604 SMOD6
RD0 609 605 5G
EBUFFER 602 605 609 605 1

*MODELS USED
.MODEL SMOD3 VSWITCH(RON=1E-3 ROFF=1E11 VON=12.0 VOFF=11.9)
.MODEL SMOD4 VSWITCH(RON=1E-3 ROFF=1E11 VON=16.5 VOFF=16.6)
.MODEL SMOD5 VSWITCH(RON=1E-3 ROFF=1E11 VON=0 VOFF=-0.1)
.MODEL SMOD6 VSWITCH(RON=1E-3 ROFF=1E11 VON=16.5 VOFF=16.6)
.ENDS

*****************
* Voltage Controlled Resistance n-channel
*
* Connections
*      701 = R+
*      702 = R-
*      704 = V+
*      705 = V-
*      707 = VDD
*      711 = VSS
*****************
.SUBCKT VCRN 701 702 704 705 707 711
vtn 708 0 9
ERES 701 703 VALUE={2.25E3*V(706,0)*(1/(V(707,0)-V(704,705)-V(708,0)))}
VSENSE 703 702 0
FCOPY 0 706 VSENSE 1
RRES 706 0 1
.ENDS

*****************
* Voltage Controlled Resistance p-channel
*
* Connections
*      701 = R+
*      702 = R-
*      704 = V+
*      705 = V-
*      707 = VDD
*      711 = VSS
*****************
.SUBCKT VCRP 701 702 704 705 707 711
vtp 708 0 6
ERES 701 703 VALUE={2.4E3*V(706,0)*(1/(V(704,705)-V(711,0)-V(708,0)))}
VSENSE 703 702 0
FCOPY 0 706 VSENSE 1
RRES 706 0 1
.ENDS





